US06492358B2
1-(2,3-Dihydro-benzofuran-5-yl)-2-[5-(2,3-dimethyl-3H-imidazol-4-yl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline (#190)
2-(5-bromo-2-pyrimidinyl)-1-(2,3-dihydro-5-benzofuranyl)-2,3,4,9-tetrahydro-1H-β-carboline (0.45 g, 1.00 mmol), 1,2-dimethyl-1H-imidazole (0.18 g, 1.87 mmol), Pd(OAc)2 (12 mg, 0.05 mmol), PPh3 (26 mg, 0.1 mmol) and K2CO3 (0.28 g, 2 mmol) were stirred in 3.5 mL DMF at 140° C. for 14 hours. The mixture was poured into aqueous 10% NaOH solution (50 mL). The resulting solution was extracted with CH2Cl2 (3×50 mL) and dried over Na2SO4. Purification by preparative TLC yielded the title product as yellow powder.

reactant | 2-(5-bromo-2-pyrimidinyl)-1-(2,3-dihydro-5-benzofuranyl)-2,3,4,9-tetrahydro-1H-β-carboline | 1.00 mmol, 0.45 g | BrC=1C=NC(=NC1)N1C(C=2NC3=CC=CC=C3C2CC1)C=1C=CC2=C(CCO2)C1 | C23H19BrN4O
reactant | 1,2-dimethyl-1H-imidazole | 1.87 mmol, 0.18 g | CN1C(=NC=C1)C | C5H8N2
reactant | PPh3 | 0.1 mmol, 26 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 2 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.05 mmol, 12 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(2,3-Dihydro-benzofuran-5-yl)-2-[5-(2,3-dimethyl-3H-imidazol-4-yl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline | O1CCC2=C1C=CC(=C2)C2N(CCC=1C3=CC=CC=C3NC21)C2=NC=C(C=N2)C=2N(C(=NC2)C)C | C28H26N6O
